US04461906
1.54 g of (R,S)-1-(p-methoxybenzoyl)-2-oxo-3-pyrrolidinylchloroacetate are heated at 100° C. in 50 ml of pyridine for 10 minutes under nitrogen with 0.42 g of thiourea and 7 ml of ethanol. The solvent is removed by evaporation and the residue is partitioned between ethyl acetate and water. The organic phase is washed several times with water and the aqueous phases are extracted with ethyl acetate. The combined ethyl acetate phases are evaporated, the residue is boiled at reflux in diisopropyl ether and then the solution is decanted off from insoluble constituents. The clear, colourless diisopropyl ether phase is stirred in an ice-bath and then left to stand in an ice box overnight. The product which crystallises out is filtered off and there is obtained (R,S)-1-(p-methoxybenzoyl)-3-hydroxy-2-pyrrolidinone of melting point 125°-126° C.

reactant | (R,S)-1-(p-methoxybenzoyl)-2-oxo-3-pyrrolidinylchloroacetate | 1.54 g | COC1=CC=C(C(=O)N2C([C@H](CC2)[C@H](C(=O)[O-])Cl)=O)C=C1
reactant | thiourea | 0.42 g | NC(=S)N | CH4N2S
reactant | ethanol | 7 ml | C(C)O | C2H6O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | (R,S)-1-(p-methoxybenzoyl)-3-hydroxy-2-pyrrolidinone | COC1=CC=C(C=C1)C(=O)N2CCC(C2=O)O | C12H13NO4
